US05554770
A mixture of 2.126 g (17.4 mmol) of 3,4-dimethylphenol, 98 mg (1.69 mmol) of acetone, and 20.9 mg (0.22 mmol) of methanesulfonic acid was heated for 62 hours at 100° C. and then at 150° C. for 26 hours. The mixture was allowed to cool, diluted with 30 mL of toluene, and washed three times with a 10% aqueous NaOH solution, water and brine. The organic layer was dried over MgSO4 and then concentrated under reduced pressure. There was obtained 335 mg of crude 2,3,6,7,9,9-hexamethylxanthene as a tan solid.

reactant | 3,4-dimethylphenol | 17.4 mmol, 2.126 g | CC=1C=C(C=CC1C)O | C8H10O
reactant | acetone | 1.69 mmol, 98 mg | CC(=O)C | C3H6O
reactant | methanesulfonic acid | 0.22 mmol, 20.9 mg | CS(=O)(=O)O | CH4O3S
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3,6,7,9,9-hexamethylxanthene | 335 mg | CC1=CC=2C(C3=CC(=C(C=C3OC2C=C1C)C)C)(C)C | C19H22O
